US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-(trifluoromethoxy)-benzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 4-trifluoromethoxybenzenesulfonylchloride (119 mg, 0.455 mmol) give 140 mg as a purple solid. M+1 509.1 Calcd 509.11.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 4-trifluoromethoxybenzenesulfonylchloride | 0.455 mmol, 119 mg | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-(trifluoromethoxy)-benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)NS(=O)(=O)C | InChI=1S/C19H23F3N4O5S2.ClH/c1-32(27,28)24-18-13-14(26-11-2-9-23-10-12-26)3-8-17(18)25-33(29,30)16-6-4-15(5-7-16)31-19(20,21)22;/h3-8,13,23-25H,2,9-12H2,1H3;1H
